********************************************************************************************************
*
* Nexperia PXP3R7-12QU
* Polarity P - Channel
* Ratings 12V/3.2mOhm/19A
* Revision N#: 1.0
* Created on 2021-09-14 12:47:08
* Please visit www.nexperia.com for latest revision release
*
********************************************************************************************************
*
* Model generated by Nexperia
* Copyright(c) 2018
* All rights reserved
*
* Contains proprietary information which is the property of Nexperia.
*
********************************************************************************************************

.SUBCKT PXP3R7-12QU D G S

* Package impedance
LD D 5 20.80p
RLD2 D 5 52.28m
RLD1 5 4 200.0u
LG G 1 1.211n
RLG G 1 3.044
LS S 8 224.0p
RLS2 S 8 563.0m
RLS1 8 7 965.8u

* Drain,gate and source resistances
RD 3 4 1.469m TC= 4.174m,1.000n
RG 1 2 4.500
RS 6 7 1.000u

* Body Diode
RBD 9 4 5.498m TC= 4.000m,23.00u
DBD 9 7 D_DBD
RDS 7 4 371.2MEG TC= -5.000m

* Internal MOS
M1 3 2 6 6 MINT

* Gate leakage and gate capacitance
RGS 2 6 2.640G
CGS 2 6 5.200n

* CGD
C11 11 12 1E-12
V11 11 0 0Vdc
G11 2 3 VALUE {V(13,0)*I(V11)}
E11 12 0 2 3 1
E12 13 0 TABLE {V(12)}
+ (-4.5,9965.0)
+ (-1.5,9965.0)
+ (0.01,4592.0)
+ (0.1,4237.0)
+ (0.2,3897.0)
+ (0.5,3118.0)
+ (1.0,2508.0)
+ (2.0,1984.0)
+ (3.0,1710.0)
+ (4.0,1531.0)
+ (5.0,1402.0)
+ (6.0,1302.0)
+ (8.0,1157.0)
+ (10.0,1055.0)

.MODEL MINT PMOS Vto= -1.125 Kp= 542.6 Nfs= 281.2G Eta= 0.000
+ Level= 3 Gamma= 0.000 Phi= 600.0m Is= 1.000E-24 UO= 600.0
+ Js= 0.000 Pb= 800.0m Cj= 0.000 Cjsw= 0.000 Cgso= 0.000 Cgdo= 0.000 Cgbo= 0.000
+ Tox= 100.0n Xj= 0.000
+ Vmax= 241.8

.MODEL D_DBD D Bv= 18.20 Ibv= 250.0u Rs= 1.000u Is= 7.800p
+ N= 1.000 M= 446.7m VJ= 279.5m Fc= 500.0m Cjo= 5.899n Tt= 18.50n

.ENDS PXP3R7-12QU

********************************************************************************************************
* - Limited warranty and liability -
*
* Information in this document is believed to be accurate and reliable. However,Nexperia does not give
* any representations or warranties,expressed or implied,as to the accuracy or completeness of such
* information and shall have no liability for the consequences of use of such information.
* Nexperia takes no responsibility for the content in this document if provided by an information source
* outside of Nexperia. In no event shall Nexperia be liable for any indirect,incidental,punitive,
* special or consequential damages (including - without limitation - lost profits,lost savings,
* business interruption,costs related to the removal or replacement of any products or rework charges)
* whether or not such damages are based on tort (including negligence),warranty,breach of contract or
* any other legal theory. Notwithstanding any damages that customer might incur for any reason whatsoever,
* Nexperia's aggregate and cumulative liability towards customer for the products described herein shall
* be limited in accordance with the Terms and conditions of commercial sale of Nexperia.
*
********************************************************************************************************